US05656624
Heat a mixture of 4-benzylpiperazine (5.0 mL, 28.8 mmol), 4-flurobenzaldehyde (3.1 mL, 28.8 mmol)) and anhydrous K2CO3 (5.96 g, 43.1 mmol)) in DMF (50 mL) to -150° C. overnight. Cool the mixture to room temperature, partition between water and ether (Et2O), and extract with Et2O. Combine the Et2O extracts, wash with water and brine, dry over anhydrous Na2SO4 and concentrate in vacuo to obtain 7.91 g (98%) of 4-(4-benzylpiperazin-1-yl)benzaldehyde as a yellow solid of sufficient purity to be employed in Example 1 without further purification.

reactant | 4-benzylpiperazine | 28.8 mmol, 5.0 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 4-flurobenzaldehyde | 28.8 mmol, 3.1 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | K2CO3 | 43.1 mmol, 5.96 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4-benzylpiperazin-1-yl)benzaldehyde | 7.91 g, 98% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C18H20N2O
